US09428470B2
D) 3-(5-(Benzyloxy)-2-methylphenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid
A mixture of methyl 3-(5-(benzyloxy)-2-methylphenyl)-5-(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (6.80 g), THF (70 mL), methanol (70 mL), and a 1 M aqueous sodium hydroxide solution (70 mL) was stirred at room temperature for 30 minutes. The reaction mixture was rendered acidic using 6 M hydrochloric acid at 0 C, followed by extraction with ethyl acetate. The extract was washed with water and saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (6.30 g).

reactant | methyl 3-(5-(benzyloxy)-2-methylphenyl)-5-(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 6.80 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC)CC(=O)OC)C | C22H23NO6
reactant | THF | 70 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 70 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | methanol | 70 mL | CO | CH4O
product | 3-(5-(Benzyloxy)-2-methylphenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | 6.30 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)O)CC(=O)O)C | C20H19NO6
